US06492370B1
(2S)-4-Hydroxy-2-[3-(2-mercaptoethyl)-3-phenethylureido]butyric Acid (Compound No. 8-1)
(2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]-4-butanolide (Compound No. 1-69, 2.9 g) is dissolved in methanol (19 ml) under a nitrogen atmosphere. A 2 N aqueous lithium hydroxide solution (5.6 ml) is added thereto under ice cooling, and the mixture is stirred under ice cooling for 50 minutes and further at room temperature for 35 minutes. The reaction mixture is concentrated under reduced pressure, a 10% aqueous citric acid solution is added to the concentrate, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 1.5 g (48%) of the titled compound (Compound No. 8-1).

reactant | (2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]-4-butanolide | SCCN(C(N[C@@H]1C(=O)OCC1)=O)CCC1=CC=CC=C1 | C15H20N2O3S
reactant | lithium hydroxide | 2 N, 5.6 ml | [OH-].[Li+]
solvent | methanol | 19 ml | CO | CH4O
product | (2S)-4-Hydroxy-2-[3-(2-mercaptoethyl)-3-phenethylureido]butyric Acid | 1.5 g, 48% | OCC[C@@H](C(=O)O)NC(=O)N(CCC1=CC=CC=C1)CCS | C15H22N2O4S
